US04882447
Diethyl 2-aminomalonate and iodoacetic acid are treated in the same manner as described in Reference Example 1 to give diethyl 2-[(iodoacetyl)amino]malonate, m.p. 96°-98° C.

reactant | Diethyl 2-aminomalonate | NC(C(=O)OCC)C(=O)OCC | C7H13NO4
reactant | iodoacetic acid | ICC(=O)O | C2H3IO2
product | diethyl 2-[(iodoacetyl)amino]malonate | ICC(=O)NC(C(=O)OCC)C(=O)OCC | C9H14INO5
